US05457205
Methyl 3-[2-(4-(2-carbomethoxy-1-methylethenyl)phenyl)-1-methylethyl]-5-(2-trifluoromethyl-thiazol-4-yl)-2-oxazolidine carboxylate
Prepared by analogy to Example 18 by reaction of N-[2-(4-(2-carbomethoxy-1-methylethyl)phenyl)-1-methyl-ethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine with methyl glyoxylate followed by purification of the base on a silica gel column using chloroform/petroleum ether/ethyl acetate =5:4.5:0.5 as eluant.

reactant | N-[2-(4-(2-carbomethoxy-1-methylethyl)phenyl)-1-methyl-ethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)CC(C)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C20H25F3N2O3S
reactant | methyl glyoxylate | C(C=O)(=O)OC | C3H4O3
product | Methyl 3-[2-(4-(2-carbomethoxy-1-methylethenyl)phenyl)-1-methylethyl]-5-(2-trifluoromethyl-thiazol-4-yl)-2-oxazolidine carboxylate | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CC(C)N1C(OC(C1)C=1N=C(SC1)C(F)(F)F)C(=O)OC | C23H25F3N2O5S
